US04954519
0.13 g of 3-(3-aminopropoxy)isocoumarin hydrochloride (0.5 mmole) was chlorinated with 0.007 g of N-chlorosuccinimide (0.5 mmole) in 5 ml of DMF at r.t. overnight. The reaction mixture was purified by silica gel column chromatography (methylene chloride:methanol=5:1) and crystallized from MeOH-ether to give 0.009 g of 3-(3-aminopropoxy)-4-chloro-isocoumarin hydrochloride (yield, 60%). The NMR spectrum of this compound is similar to 3-(3-aminopropoxy)isocoumarin without the peak at δ6.2 ppm; m.p. 160°-163° C.; mass spectrum, m/e=254 (M+ -Cl). Anal. Calc. for C12H13N1O3Cl2.1/4H2O: C, 48.88; H, 4.61; N, 4.75; Cl, 24.06. Found: C, 48.85; H, 4.54; N, 4.74; Cl, 24.02.

reactant | 3-(3-aminopropoxy)isocoumarin hydrochloride | 0.5 mmole, 0.13 g | Cl.NCCCOC=1OC(=O)C2=CC=CC=C2C1
reactant | N-chlorosuccinimide | 0.5 mmole, 0.007 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-aminopropoxy)-4-chloro-isocoumarin hydrochloride | 0.009 g, 60% | Cl.NCCCOC=1OC(=O)C2=CC=CC=C2C1Cl | InChI=1S/C12H12ClNO3.ClH/c13-10-8-4-1-2-5-9(8)11(15)17-12(10)16-7-3-6-14;/h1-2,4-5H,3,6-7,14H2;1H
